US04702761
Preparation of O,O-Dimethyl N,N-Diethylphosphoramidothioate
A solution of diethylamine (7.31 g, 100 mmol) in dichloromethane (250 ml) at 5° C. was treated with O,O-dimethyl phosphorochloridothioate (8.03 g, 50 mmol) in dichloromethane (50 ml) in a dropwise fashion. The resulting mixture was stirred 1 h and then washed with 1N HCl (2X 100 ml) and water (100 ml). The dichloromethane solution was dried over magnesium sulfate and filtered, and the filtrate was concentrated under reduced pressure to give an oil. Distillation employing a Kugelrohr apparatus at 45°-50° C. and less than 1 mm Hg pressure gave 5.27 g (53 percent of theory) of the desired product; nD25 1.4735.

reactant | diethylamine | 100 mmol, 7.31 g | C(C)NCC | C4H11N
reactant | O,O-dimethyl phosphorochloridothioate | 50 mmol, 8.03 g | P(OC)(OC)(Cl)=S | C2H6ClO2PS
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | O,O-Dimethyl N,N-Diethylphosphoramidothioate | C(C)N(P(OC)(OC)=S)CC | C6H16NO2PS
